US06525070B2
4-Amino-3-ethoxy-benzoic acid
3-Ethoxy-4-nitrobenzoic acid (0.31 g) was treated with 5% palladium on charcoal under an atmosphere of hydrogen (1 bar) for 3 hours. The reaction mixture was filtered and the filtrate was evaporated to leave the product as a beige solid (0.245 g; MS: ES− (M-H) 180).

reactant | 3-Ethoxy-4-nitrobenzoic acid | 0.31 g | C(C)OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C9H9NO5
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-Amino-3-ethoxy-benzoic acid | 0.245 g | NC1=C(C=C(C(=O)O)C=C1)OCC | C9H11NO3
